US07098333B2
7-Benzoyl-N,N-dimethyl-4-(2-furyl)-7H-pyrrolo[2,3-d]pyrimidine-2-amine (Example 5)
A solution of N,N-dimethyl-4-(2-furyl)-1H-pyrrolo[2,3-d]pyrimidine-2-amine (181 mg, 0.8 mmol) in THF (3 mL) was treated with Et3N, (111 μL, 0.8 mmol), benzoyl chloride (93 μL, 0.8 mmol) and a catalytic amount of DMAP, stirred at room temperature for 16 h, quenched with water, extracted with EtOAc, dried (MgSO4), concentrated in vacuo and purified by chromatography (EtOAc:Heptane, 1:9 then Heptane:DCM, 2:1) to give the title compound (76 mg) as a yellow solid.

reactant | N,N-dimethyl-4-(2-furyl)-1H-pyrrolo[2,3-d]pyrimidine-2-amine | 0.8 mmol, 181 mg | CN(C1=NC(=C2C(N1)=NC=C2)C=2OC=CC2)C | C12H12N4O
reactant | Et3N | 0.8 mmol, 111 μL | CCN(CC)CC | C6H15N
reactant | benzoyl chloride | 0.8 mmol, 93 μL | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | THF | 3 mL | C1CCOC1 | C4H8O
catalyst | DMAP | CN(C)C=1C=CN=CC1 | C7H10N2
product | 7-Benzoyl-N,N-dimethyl-4-(2-furyl)-7H-pyrrolo[2,3-d]pyrimidine-2-amine | 76 mg | C(C1=CC=CC=C1)(=O)N1C=CC2=C1N=C(N=C2C=2OC=CC2)N(C)C | C19H16N4O2
